US07923456B2
Step 1: 5-(2-Fluoro-4-cyclopropylphenylamino)-imidazo[1,5-a]pyridine-6-carboxylic acid methyl ester
To a solution of 2-fluoro-4-cyclopropyl aniline (395 mg, 2.61 mmol) and 5-chloro-imidazo[1,5-a]pyridine-6-carboxylic acid methyl ester (500 mg, 2.37 mmol) in THF under nitrogen at −70° C. (20 mL) was added lithium bis(trimethylsilyl) amide (4.98 mL, 1M solution, 4.98 mmol) dropwise. After stirring for 1 hour at −70° C. the reaction mixture was allowed to warm and then quenched with saturated aqueous ammonium chloride. The mixture was extracted with ethyl acetate (150 mL), the organic extract dried (Na2SO4), filtered and concentrated in vacuo. The resultant residue was subjected to flash chromatography (Si-PPC, gradient 0-50% ethyl acetate in cyclohexane) to yield the title compound (573 mg, 60%). LCMS (Method B): RT=3.60 min, M+H+=326.

reactant | 2-fluoro-4-cyclopropyl aniline | 2.61 mmol, 395 mg | FC1=C(N)C=CC(=C1)C1CC1 | C9H10FN
reactant | 5-chloro-imidazo[1,5-a]pyridine-6-carboxylic acid methyl ester | 2.37 mmol, 500 mg | COC(=O)C=1C=CC=2N(C1Cl)C=NC2 | C9H7ClN2O2
reactant | lithium bis(trimethylsilyl) amide | 4.98 mmol, 1M, 4.98 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
solvent | THF | C1CCOC1 | C4H8O
product | 5-(2-Fluoro-4-cyclopropylphenylamino)-imidazo[1,5-a]pyridine-6-carboxylic acid methyl ester | 573 mg, 60% | COC(=O)C=1C=CC=2N(C1NC1=C(C=C(C=C1)C1CC1)F)C=NC2 | C18H16FN3O2
